US07939666B2
A solution of glyoxylic acid monohydrate (1.51 g, 16.4 mmol) in water (10 ml) was added dropwise to a stirred solution of tryptamine.HCl (3.0 g, 15.3 mmol) in water (200 ml). KOH (0.827 g, 14.7 mmol) in water (10 ml) was added. The reaction mixture was stirred at room temperature for 1 h after which time precipitation occurred. Following filtration under reduced pressure the white precipitate was collected and washed with water to furnish 2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid Yield 1.9 g (58%); m/z 217 [M++H]+.

reactant | glyoxylic acid monohydrate | 16.4 mmol, 1.51 g | O.C(C=O)(=O)O
reactant | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | HCl | 15.3 mmol, 3.0 g | Cl | ClH
reactant | KOH | 14.7 mmol, 0.827 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2,3,4,9-tetrahydro-1H-beta-carboline-1-carboxylic acid | Yield 1.9 g, 58% | C1(NCCC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
